US05034381
A mixture of 4-bromophenethylphthalimide (23.1 g), styrene (9.5 g), palladium acetate (0.16 g), tri-o-tolylphosphine (0.85 g) and triethylamine (46.5 g) is stirred at reflux under nitrogen for 18 hours. It is cooled, treated with ice cold dilute hydrochloric acid and extracted with ethyl acetate (3×500 ml). The ethyl acetate extract is washed with water, then brine, dried over sodium sulphate and concentrated to dryness at reduced pressure. Recrystallization from 2-methoxyethanol affords N-(4-stilbenylethyl)-phthalimide, m.p. 212°-215°.

reactant | 4-bromophenethylphthalimide | 23.1 g | BrC1=CC=C(CCC2=C3C(C(=O)NC3=O)=CC=C2)C=C1 | C16H12BrNO2
reactant | styrene | 9.5 g | C=CC1=CC=CC=C1 | C8H8
reactant | tri-o-tolylphosphine | 0.85 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 46.5 g | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.16 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(4-stilbenylethyl)-phthalimide | C1(=CC=C(C=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O)C=CC2=CC=CC=C2 | C24H19NO2
